US04050921
2-(1-Phenylbutylthio)pyridine N-oxide
A mixture of 16.9 gms (0.1 mol) of 1-phenylbutylchloride, 36 gms of a 40% aqueous solution of the sodium salt of 2-mercaptopyridine N-oxide (0.1 mol) and 50 ml of ethanol was warmed and stirred at 50° to 60° C. for 2.5 hours. The cooled reaction mixture was poured into 500 ml of water with agitation. The precipitated product was filtered, washed with water and dried. After recrystallization for ethanol a yield of 10 gms (45% theory) of white crystals was obtained.

reactant | 1-phenylbutylchloride | 0.1 mol, 16.9 gms | C1(=CC=CC=C1)C(CCC)Cl | C10H13Cl
reactant | sodium | [Na] | Na
reactant | 2-mercaptopyridine N-oxide | 0.1 mol | SC1=[N+](C=CC=C1)[O-] | C5H5NOS
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 2-(1-Phenylbutylthio)pyridine N-oxide | C1(=CC=CC=C1)C(CCC)SC1=[N+](C=CC=C1)[O-] | C15H17NOS
